US07026515B2
Preparation of (4S)-N-benzyloxycarbonyl-4-methyl-5-oxazolidinone
Benzyloxycarbonyl-L-alanine (19.3 g), paraformaldehyde (6.56 g) and p-toluenesulfonic acid monohydrate (0.17 g) were suspended in toluene (190 mL), and the mixture was heated at reflux while removing water produced. At the end of the reaction, the reaction mixture was cooled to room temperature, washed with saturated aqueous sodium hydrogen carbonate solution and then saturated saline. The toluene solution was dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure, the resulting crystals were filtrated to give the title compound (19.0 g) as white crystals in an yield of 93%.

reactant | Benzyloxycarbonyl-L-alanine | 19.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | paraformaldehyde | 6.56 g | C=O | CH2O
solvent | toluene | 190 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 0.17 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | (4S)-N-benzyloxycarbonyl-4-methyl-5-oxazolidinone | 19.0 g, yield of 93% | C(C1=CC=CC=C1)OC(=O)N1COC([C@@H]1C)=O | C12H13NO4
